US09315521B2
2-{[(1-ethyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
To a solution of (1-ethyl-1H-imidazol-5-yl)methanol (631 mg, 5.0 mmol) in dichloromethane (20 mL) was added dropwise tribromophosphane (0.94 mL, 10.0 mmol). The resulting mixture was stirred at room temperature for 6 hours. After evaporation, the crude 5-(bromomethyl)-1-ethyl-1H-imidazole was dissolved in cold ethanol (30 mL), and 6-methyl-2-sulfanylpyrimidin-4-ol (700 mg, 5 mmol) and triethylamine (2.8 mL, 20 mmol) were added. After 2 hours, the solvent was evaporated, and the residue was purified by chromatography (4% methanol in dichloromethane) to provide a white solid (150 mg, 12% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.33 (t, 3H), 2.22 (s, 3H), 4.02 (q, 2H), 4.46 (s, 2H), 6.03 (br, 1H), 6.88 (s, 1H), 7.64 (s, 1H); M+251.

reactant | (1-ethyl-1H-imidazol-5-yl)methanol | 5.0 mmol, 631 mg | C(C)N1C=NC=C1CO | C6H10N2O
reactant | tribromophosphane | 10.0 mmol, 0.94 mL | BrP(Br)Br | Br3P
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 5 mmol, 700 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-{[(1-ethyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 150 mg, 12% yield | C(C)N1C=NC=C1CSC1=NC(=CC(=N1)O)C | C11H14N4OS
